US08729102B2
B) 2-bromo-5-ethoxypyridine
A mixture of 6-bromopyridin-3-ol (7.58 g), iodoethane (5.23 mL), potassium carbonate (9.03 g), and DMF (80 mL) was stirred at 60° C. for 3 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (7.58 g) as a pale yellow solid.

reactant | 6-bromopyridin-3-ol | 7.58 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | iodoethane | 5.23 mL | ICC | C2H5I
reactant | potassium carbonate | 9.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-bromo-5-ethoxypyridine | 7.58 g | BrC1=NC=C(C=C1)OCC | C7H8BrNO
